US08791132B2
4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid (130 mg, 0.358 mmol) was dissolved in DCM (5 mL), dimethyl amine hydrochloride (57 mg, 0.716 mmol), PYBOP (223 mg, 0.429 mmol) and triethylamine (0.51 mL, 3.58 mmol) were added and the reaction mixture was stirred at RT for 4 h. The reaction progress was monitored by LC-MS. After completion of the reaction, the reaction mixture was concentrated and the crude product was purified by reverse phase chromatography to obtain 77 mg of 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-N,N-dimethyl-3-pyridin-4-yl-butyramide as the TFA salt. 1H NMR (CD3OD, TFA salt) δ (ppm): 8.56 (d, 2H), 7.28 (d, 2H), 7.19 (s, 1H), 7.17 (d, 1H), 6.94 (d, 1H), 4.63 (dd, 1H), 4.54 (dd, 1H), 4.39 (d, 1H), 4.37 (t, 1H), 4.0 (m, 1H), 3.8 (m, 1H), 3.6 (m, 1H), 3.45 (m, 1H), 3.3 (m, 1H), 3.1 (s, 6H), 3.0 (d, 3H), 2.9 (m, 2H), 2.8 (d, 3H). Separation by chiral HPLC provides enantiomers II-230a-b.

reactant | 4-(2,8-Dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-3-pyridin-4-yl-butyric acid | 0.358 mmol, 130 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(=O)O)C2=CC=NC=C2)CC1 | C22H25N3O2
reactant | dimethyl amine hydrochloride | 0.716 mmol, 57 mg | Cl.CNC
reactant | PYBOP | 0.429 mmol, 223 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 3.58 mmol, 0.51 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-N,N-dimethyl-3-pyridin-4-yl-butyramide | 77 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CC(CC(=O)N(C)C)C2=CC=NC=C2)CC1 | C24H30N4O
